US07235581B2
a) (S)-{1-[4-(2,6-Difluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidin-3-yl}-carbamic Acid Tert-Butyl Ester
In an analogous manner to that described in Example 2c), the alkylation of the (S)-[1-(4-hydroxy-phenyl)-2-oxo-pyrrolidin-3-yl]-carbamic acid tert-butyl ester [Example 16 a)] with 2,6-difluorobenzylbromide in presence of potassium carbonate yields the title compound as a white solid; MS: m/e=419 (M+H)+.

reactant | (S)-[1-(4-hydroxy-phenyl)-2-oxo-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)C1=CC=C(C=C1)O)=O)=O | C15H20N2O4
reactant | 2,6-difluorobenzylbromide | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | (S)-{1-[4-(2,6-Difluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidin-3-yl}-carbamic Acid Tert-Butyl Ester | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)C1=CC=C(C=C1)OCC1=C(C=CC=C1F)F)=O)=O | C22H24F2N2O4
